US06787541B1
Methyl 4-(2-thienylcarbonyl)thieno[3,2-d]pyrimidine-2-carboxylate (Example 126)
A solution of ethyl 4-(2-thienylcarbonyl)thieno[3,2-d]pyrimidine-2-carboxylate (100 mg, 0.31 mmol) in MeOH (5 mL) was refluxed for 2 h, cooled, diluted with water and filtered to give the title compound (73 mg, 74%) as a cream solid.

reactant | ethyl 4-(2-thienylcarbonyl)thieno[3,2-d]pyrimidine-2-carboxylate | 0.31 mmol, 100 mg | S1C(=CC=C1)C(=O)C=1C2=C(N=C(N1)C(=O)OCC)C=CS2 | C14H10N2O3S2
solvent | MeOH | 5 mL | CO | CH4O
solvent | water | O | H2O
product | Methyl 4-(2-thienylcarbonyl)thieno[3,2-d]pyrimidine-2-carboxylate | 73 mg, 74% | S1C(=CC=C1)C(=O)C=1C2=C(N=C(N1)C(=O)OC)C=CS2 | C13H8N2O3S2
